US04990660
500 ml of glacial acetic acid, 50.8 g of 4-acetoxy-4'-acetylbiphenyl, 0.8 g of cobalt(II) acetate and 12.0 g of manganese(II) acetate were refluxed in a 1 l double-walled flanged reactor equipped with an intensive stirrer and baffles, and the mixture was gassed with air via a valve in the base. After 4 hours, the mixture was cooled and the product was filtered off under suction, washed with water and dried. 26.1 g (51% yield) of 4-acetoxybiphenyl-4'-carboxylic acid having a purity of >98% (HPLC) were obtained.

reactant | 4-acetoxy-4'-acetylbiphenyl | 50.8 g | C(C)(=O)OC1=CC=C(C=C1)C1=CC=C(C=C1)C(C)=O | C16H14O3
reactant | acetic acid | 500 ml | C(C)(=O)O | C2H4O2
catalyst | cobalt(II) acetate | 0.8 g | C(C)(=O)[O-].[Co+2].C(C)(=O)[O-]
catalyst | manganese(II) acetate | 12.0 g | C(C)(=O)[O-].[Mn+2].C(C)(=O)[O-]
product | 4-acetoxybiphenyl-4'-carboxylic acid | 26.1 g, 51% yield | C(C)(=O)OC1=CC=C(C=C1)C1=CC=C(C=C1)C(=O)O | C15H12O4
